.SUBCKT DFFRQX1H7R CK D Q RN VDD VSS
*.PININFO CK:I D:I RN:I Q:O VDD:B VSS:B
MMN0 net55 net71 net43 VSS nm1p2_svt_lp W=150n L=60n m=1
MMN2 net40 RN VSS VSS nm1p2_svt_lp W=150n L=60n m=1
MMN1 net43 net41 net40 VSS nm1p2_svt_lp W=150n L=60n m=1
MMP2 net55 RN VDD VDD pm1p2_svt_lp W=200n L=60n m=1
MMP0 net55 net63 net049 VDD pm1p2_svt_lp W=150n L=60n m=1
MMP1 net049 net41 VDD VDD pm1p2_svt_lp W=150n L=60n m=1
XXI21 net66 net63 net71 VDD VSS net61 / TSINV pl=6E-08 pw=1.5E-07 nl=6E-08 nw=1.5E-07
XXI6 net77 net71 net63 VDD VSS net61 / TSINV pl=6E-08 pw=2.8E-07 nl=6E-08 nw=2.4E-07
XXI20 RN net61 VDD VSS net66 / NAND2 pl=6E-08 pw=2.8E-07 nl=6E-08 nw=2.4E-07
XXI23 D VDD VSS net77 / INV pl=6E-08 pw=3.4E-07 nl=6E-08 nw=2.4E-07
XXI19 net55 VDD VSS net41 / INV pl=6E-08 pw=3E-07 nl=6E-08 nw=2.2E-07
XXI13 net71 VDD VSS net63 / INV pl=6E-08 pw=2.8E-07 nl=6E-08 nw=2E-07
XXI26 net55 VDD VSS Q / INV pl=6E-08 pw=3.4E-07 nl=6E-08 nw=2.4E-07
XXI4 CK VDD VSS net71 / INV pl=6E-08 pw=2.8E-07 nl=6E-08 nw=2E-07
XXI22 net63 net71 net66 net55 VDD VSS / TG pl=6E-08 pw=3E-07 nl=6E-08 nw=2.2E-07
.ENDS
