.SUBCKT DFFRX2H7R CK D Q QN RN VDD VSS
*.PININFO CK:I D:I RN:I Q:O QN:O VDD:B VSS:B
MNM0 net36 net0122 VSS VSS nm1p2_svt_lp W=150n L=60n m=1
MMN1 net042 CKN net36 VSS nm1p2_svt_lp W=150n L=60n m=1
MMN5 net042 R VSS VSS nm1p2_svt_lp W=240n L=60n m=1
MMN4 net46 net33 VSS VSS nm1p2_svt_lp W=240n L=60n m=1
MMP4 net54 R VDD VDD pm1p2_svt_lp W=340n L=60n m=1
MMP1 net042 CKP net67 VDD pm1p2_svt_lp W=150n L=60n m=1
MMP3 net46 net33 net54 VDD pm1p2_svt_lp W=340n L=60n m=1
MPM0 net67 net0122 net54 VDD pm1p2_svt_lp W=150n L=60n m=1
XXI30 D CKN CKP VDD VSS net33 / TSINV pl=6E-08 pw=2.8E-07 nl=6E-08 nw=2.4E-07
XXI29 net46 CKP CKN VDD VSS net33 / TSINV pl=6E-08 pw=1.5E-07 nl=6E-08 nw=1.5E-07
XI8 net042 VDD VSS net0122 / INV pl=6E-08 pw=3.4E-07 nl=6E-08 nw=2.4E-07
XI6 CKN VDD VSS CKP / INV pl=6E-08 pw=3.4E-07 nl=6E-08 nw=2.4E-07
XI9 net0122 VDD VSS Q / INV pl=6E-08 pw=4E-07 nl=6E-08 nw=2.8E-07
XI7 RN VDD VSS R / INV pl=6E-08 pw=3.4E-07 nl=6E-08 nw=2.4E-07
XI3 net042 VDD VSS QN / INV pl=6E-08 pw=4E-07 nl=6E-08 nw=2.8E-07
XI5 CK VDD VSS CKN / INV pl=6E-08 pw=3.4E-07 nl=6E-08 nw=2.4E-07
XXI9 CKP CKN net46 net042 VDD VSS / TG pl=6E-08 pw=3.4E-07 nl=6E-08 nw=2.4E-07
.ENDS
